Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Headache, right facial numbness, and decreased speech output
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F w/ PMH HTN 

She notes today she had a headache. There was some numbness in
the mouth on the R as well. There was numbness in the fingers.
The numbness in the fingers resolved now. The mouth symptoms are
almost resolved.

On further questioning she tells me that numbness started before
headache but she is not sure. The numbness started around 12pm.
The fingers were numb initially. Then the lips and mouth. The
headache was in the L frontal area, mostly pressure  like. The
headache is still present. It is better than before. At its 
worst
it was ___.  Now its ___. No n/v. She states that lights and
sounds always bother her, no worse than normal today. No history
of migraine or similar headache. The numbness was only in the
fingers and did not spread. The onset was on the slower side,
perhaps minutes. It lasted for ___ minutes in her fingers. It
then started in the lips (it had resolved in fingers before
starting in lips). No weakness, facial droop. Speech was normal.
No similar headaches in the past. Doesn't really get headaches 
at
all normally. Was fine in the morning today when she woke up. 
She
said last night she felt like a cold was coming on (tickle in 
her
throat). No vomiting or diarrhea recently. She says she drinks a
lot of water normally. Her family member feels there seems to be
some cognitive changes as the day progressed today. She couldn't
say where she was or identify a watch. She says she is fine. Her
family member says she is better now than earlier. There is only
numbness. No tingling.

She presented to ___ today for evaluation of these
symptoms. The symptoms were improving by the time she arrived in
the ___. CT head which was unremarkable. NIHSS 1 for facial
numbness. She was transferred to ___ for MRI and neurology
evaluation. ___ note states that MRI is unavailable
at ___ until ___. BP was 191/75 initially in the ___.
Apparently she had been recently taken off of lisinopril due to
angioedema (swollen lip) around 2 weeks ago by her PCP (she had
been on this medication for a while before this), she hasn't
started losartan yet as suggested by PCP, as she is concerned
about developing a similar side effect with losartan.

 
Past Medical History:
HTN
Hernia repair
cataract surgery
hemorrhoids
 
Social History:
___
Family History:
No significant issues in family.                            

 
Physical Exam:
Admission physical exam:
Vitals: T98.2 HR83 BP173/66 RR16 SpO2 96% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented  states ___, doesn't self
correct. ___. Able to relate history without 
difficulty.
Attentive, able to do DOWB. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects. No dysarthria. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect. 

makes some errors with reading the sentences.

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 5      5     5   5    5    ___     5    5   5    5 

-Sensory: No deficits to light touch, pinprick, temperature,
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:

 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     2      1
R 2      2      2     2      1 

Plantar response was flexor bilaterally. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.

Discharge physical exam:
Tmax: 98.3F
HR: ___
BP: 133/49-187/85
RR: ___
SpO2: 96% on RA 

MS: Awake, alert, oriented to self, place, month, and year. 
Fully conversational without any paraphasic errors, intact 
naming to high and low frequency objects. 

CN: minimal dysarthria, mild restriction of upgaze not out of 
proportion to age otherwise EOMI, palate lifts symmetrically, 
slight L NLFF with symmetric activation. 

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  
  Delt ___ Tri WE FE Grip  IO  
  C5   C6 C7  C6 C7 C8/T1 T1  
L 5    ___  5  5     5
R 5    ___  5  5     5
 
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L 5  5     5    ___ 
R 5  5     5    ___

Coordination: finger taps intact, symmetric bilaterally. No 
ataxia on FNF bilaterally. 

Gait: ambulating with narrow based gait without assistance. 
 
Pertinent Results:
___ 06:05AM BLOOD WBC-7.5 RBC-4.26 Hgb-13.0 Hct-40.9 MCV-96 
MCH-30.5 MCHC-31.8* RDW-12.7 RDWSD-44.4 Plt ___
___ 11:00PM BLOOD Glucose-119* UreaN-21* Creat-0.6 Na-129* 
K-4.3 Cl-94* HCO3-22 AnGap-13
___ 12:47AM BLOOD Glucose-113* UreaN-20 Creat-0.5 Na-128* 
K-4.9 Cl-95* HCO3-21* AnGap-12
___ 07:05AM BLOOD Glucose-98 UreaN-15 Creat-0.5 Na-126* 
K-4.0 Cl-93* HCO3-20* AnGap-13
___ 05:56AM BLOOD Glucose-84 UreaN-9 Creat-0.5 Na-124* 
K-3.9 Cl-87* HCO3-20* AnGap-17
___ 08:40AM BLOOD Glucose-94 UreaN-13 Creat-0.5 Na-137 
K-4.0 Cl-101 HCO3-24 AnGap-12
___ 06:05AM BLOOD Glucose-97 UreaN-10 Creat-0.4 Na-135 
K-4.2 Cl-101 HCO3-23 AnGap-11
___ 06:19AM BLOOD Glucose-118* UreaN-10 Creat-0.4 Na-137 
K-4.4 Cl-100 HCO3-23 AnGap-14
___ 06:28AM BLOOD Glucose-126* UreaN-16 Creat-0.5 Na-137 
K-4.4 Cl-101 HCO3-24 AnGap-12
___ 07:05AM BLOOD ALT-14 AST-23 LD(LDH)-191 CK(CPK)-158 
AlkPhos-59 TotBili-0.5
___ 07:05AM BLOOD %HbA1c-5.6 eAG-114
___ 07:05AM BLOOD Triglyc-40 HDL-73 CHOL/HD-2.2 LDLcalc-82
___ 07:05AM BLOOD TSH-1.4
___ 11:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

MRI/MRA Neck and Brain without contrast:
 
IMPRESSION:   
  
1. Subacute infarct involving the posterior left frontal and 
parietal lobes.  
No significant regional edema, mass effect or midline shift. 
2. Irregular narrowing of the left MCA bifurcation and inferior 
division of 
the left MCA with nonvisualization of distal flow concerning for 
high-grade 
stenosis or occlusion at the M2 segment. 
3. Otherwise patent intracranial vertebral and internal carotid 
arteries and 
their major branches without evidence of stenosis, occlusion or 
aneurysm. 
4. Patent common carotid, internal and external carotid arteries 
without 
evidence of internal carotid artery stenosis by NASCET criteria. 

5. Mild segmental probable atherosclerotic narrowing of the 
bilateral cervical 
vertebral arteries which are otherwise patent. 

Carotid duplex:
 
IMPRESSION:  
  
Right ICA <40% stenosis. 
Left ICA <40%  stenosis. 

TTE:

The left atrial volume index is mildly increased. No 
thrombus/mass is seen in the body of the left atrium (best
excluded by TEE). The right atrium is mildly enlarged. There is 
no evidence for an atrial septal defect by 2D/
color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is normal left ventricular wall
thickness with a normal cavity size. There is normal regional 
and global left ventricular systolic function. No
thrombus or mass is seen in the left ventricle. Quantitative 3D 
volumetric left ventricular ejection
fraction is 64 % (normal 54-73%). Left ventricular cardiac index 
is normal (>2.5 L/min/m2). There is no
resting left ventricular outflow tract gradient. No ventricular 
septal defect is seen. Normal right ventricular
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending
aorta diameter for gender. The aortic arch diameter is normal 
with a normal descending aorta diameter. The
aortic valve leaflets (3) are mildly thickened. No masses or 
vegetations are seen on the aortic valve. There is
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally normal
with no mitral valve prolapse. No masses or vegetations are seen 
on the mitral valve. There is mild to
moderate [___] mitral regurgitation. The pulmonic valve 
leaflets are not well seen. The tricuspid valve
leaflets appear structurally normal. No mass/vegetation are seen 
on the tricuspid valve. There is physiologic
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial
effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global biventricular systolic function. No definite structural 
cardiac source of embolism identified.

ECG:
Sinus rhythm
Nonspecific ST-T wave abnormalities
no previous tracing for comparison
 
Brief Hospital Course:
___ female with history of hypertension not on any 
medication for 2 weeks prior to admission who presented with 
headache, right facial numbness, and decreased speech output, 
found to have acute ischemic stroke of the left posterior 
frontal and parietal lobes.

#acute ischemic stroke left posterior frontal and parietal 
lobes: on presentation to the ___ ___, it was noted that 
patient's aphasia improved when head of bed flat and she was 
given IV fluids, suggesting perfusion dependence. Her blood 
pressure goal was liberalized to <200, and she was given IVF and 
head of bed remained flat. She had an MRI of the brain showed 
subacute infarct involving the posterior left frontal and 
parietal lobe. MRA was obtained, which showed irregular 
narrowing of the left MCA bifurcation.  The etiology was thought 
to be most likely secondary to decreased cerebral perfusion due 
to narrow intracranial vessels.  Carotid duplex was obtained to 
assess for any atherosclerosis of the neck veins and showed less 
than 40% stenosis in bilateral ICAs. TTE showed systolic 
ejection fraction of 63%, no regional wall motion abnormalities, 
and no evidence of cardiac thrombus. There was no cardiac 
arrhythmia detected on telemetry during hospitalization. 
Hemoglobin a1c was 5.6 and LDL 82, TSH 1.4. She was started on 
aspirin 81mg daily and plavix 75mg daily, as well as 
atorvastatin 40mg on ___ to help prevent further stroke from 
small vessel disease. Hospitalization was complicated by an 
episode of decreased speech and confusion, with improvement with 
head of bed flat.  Therefore this episode was thought to be 
decreased cerebral perfusion, and the patient was kept flat with 
maintenance IV fluids. The patient continued to complain of 
right mouth numbness.  The patient received NaCl supplementation 
as well to support her blood pressure, given her diagnosis of 
chronic hyponatremia. Patient's activity was slowly liberalized 
without worsening of her neurologic symptoms. The patient's 
symptoms resolved gradually, and she was able to participate in 
physical therapy. The patient was discharged on ZIO Patch to 
assess for any atrial fibrillation as the etiology of stroke.

#Chronic hyponatremia: Serum sodium was monitored closely, and 
the patient was given NaCl supplementation as needed.  Gradually 
the serum sodium returned to normal. We discussed the importance 
of increase salt intake in her diet. The patient's serum sodium 
should be closely monitored by PCP as outpatient.

#Hypertension: Patient's blood pressure was allowed to be 
auto-regulated <200 as above to increase cerebral perfusion. As 
patient was able to tolerate lower blood pressures without 
worsening of her neurological exam, IVF was stopped and goal 
blood pressure was decreased to <150. Her blood pressure 
generally met this range without any intervention, except for 
one reading of SBP 157. We opted to continue to monitor blood 
pressure without starting any antihypertensives at this time. We 
asked her to take her blood pressure BID when she goes home and 
bring these measurements to PCP ___. In ___ days post 
discharge it would be reasonable to start an antihypertensive 
such as amlodipine if blood pressures are persistently high. We 
discussed if her blood pressures are significantly elevated she 
should contact PCP immediately or present to ___ for evaluation. 
=====

Transitional issues:
[] Please monitor the patient's serum Na level, given her 
history of chronic hyponatremia.
[] Please stop Plavix after 1 month (started on ___ last 
dose on ___, and continue aspirin and atorvastatin 
indefinitely.
[] Please start anti-HTN as needed.
[] Stroke follow up - call ___ to schedule follow up at 
___, or if preferred to follow up at ___ (other care there) 
she should schedule this appointment.  

=====

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 82) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? () Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of right arm and mouth 
numbness and decreased speech output resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- HIGH CHOLESTEROL

We are changing your medications as follows:
- START atorvastatin 40 mg daily
- START aspirin 81 mg daily
- START clopidogrel 75 mg daily (until ___

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___